US07148246B2
Hydrogenation of the compound 5-(2-{cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyloxy}ethylidene)thiazolidine-2,4-dione, mentioned in Example Example XXII, with hydrogen gives the compound 5-(2-{cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl-oxy}ethyl)thiazolidine-2,4-dione:

reactant | 5-(2-{cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyloxy}ethylidene)thiazolidine-2,4-dione | FC1=CC=C(C=C1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)OCC=C1C(NC(S1)=O)=O)C | C22H23FN2O5S
reactant | hydrogen | [H][H] | H2
product | 5-(2-{cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl-oxy}ethyl)thiazolidine-2,4-dione | FC1=CC=C(C=C1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)OCCC1C(NC(S1)=O)=O)C | C22H25FN2O5S
